US07230031B2
2-Ethyl-3-hydroxy-4-(5-methyl-7-nitroindan-4-yloxy)phenyl trifluoromethanesulfonate
To a solution of 2-acetyl-3-hydroxy-4-(5-methyl-7-nitroindan-4-yloxy)phenyl trifluoromethanesulfonate (477 mg) in dichloromethane (5 mL) were added triethylsilane (0.960 mL) and trifluoroacetic acid (5 mL), and the mixture was stirred at room temperature overnight. Adding water, the reaction mixture was stirred for 1 hour and extracted with dichloromethane. The organic layer was washed with water, a saturated aqueous solution of sodium hydrogen carbonate and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was crystallized from dichloromethane and hexane to give the title compound (274 mg).

reactant | 2-acetyl-3-hydroxy-4-(5-methyl-7-nitroindan-4-yloxy)phenyl trifluoromethanesulfonate | 477 mg | FC(S(=O)(=O)OC1=C(C(=C(C=C1)OC1=C2CCCC2=C(C=C1C)[N+](=O)[O-])O)C(C)=O)(F)F | C19H16F3NO8S
reactant | triethylsilane | 0.960 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-Ethyl-3-hydroxy-4-(5-methyl-7-nitroindan-4-yloxy)phenyl trifluoromethanesulfonate | 274 mg | FC(S(=O)(=O)OC1=C(C(=C(C=C1)OC1=C2CCCC2=C(C=C1C)[N+](=O)[O-])O)CC)(F)F | C19H18F3NO7S
